US08022062B2
2-(4-Aminomethyl-phenoxy)-benzonitrile:
Mix under argon (4-hydroxybenzyl)-carbamic acid tert-butyl ester (1.5 g, 6.7 mmol), 2-bromobenzonitrile (813 mg, 4.5 mmol), 2,2,6,6-tetramethylheptane-3,5-dione (83 mg, 0.45 mmol), and cesium carbonate (2.2 g, 6.7 mmol) in anhydrous NMP (8.5 mL). Degas the flask and fill with argon. Add copper(I) chloride (223 mg, 2.25 mmol) quickly. Degas the flask, fill with argon and heat at 120° C. for 3 h. Cool to ambient temperature, dilute with EtOAc, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 9:1 and 3:1). Evaporate the solvent and dissolve the residue in DCM (100 mL). Add trifluoroacetic acid (20 mL) and stir at ambient temperature for 16 h. Concentrate in vacuo, dissolve the residue in EtOAc and wash with 1N aqueous NaOH. Dry over Na2SO4 and concentrate in vacuo. Purify by SCX chromatography to obtain the title compound (385 mg, 38%). MS (ES+) m/z: 225 (M+H)+.

reactant | 2-bromobenzonitrile | 4.5 mmol, 813 mg | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | 2,2,6,6-tetramethylheptane-3,5-dione | 0.45 mmol, 83 mg | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 6.7 mmol, 2.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NMP | 8.5 mL | CN1CCCC1=O | C5H9NO
catalyst | copper(I) chloride | 2.25 mmol, 223 mg | [Cu]Cl
product | 2-(4-Aminomethyl-phenoxy)-benzonitrile | 385 mg, 38% | NCC1=CC=C(OC2=C(C#N)C=CC=C2)C=C1 | C14H12N2O
